US04782162
Ethyl Z-2-(2-acetamidothiazol-4-yl)-2-butenoate
14.6 parts by weight of acetylthiourea, 30 parts by volume of water and 50 parts by volume of N,N-dimethylformamide are heated up to 85° C. under nitrogen. 22.9 parts by weight of ethyl 2-ethylidene-4-chloro-3-oxobutyrate are then added at this temperature in the course of 40 minutes. The mixture is stirred at 80° to 85° C. for 1 hour and then cooled to 15° C., and, after 10 minutes, the precipitate which has separated out is filtered off with suction. The precipitate is suspended once in 34.5 parts by volume of water, filtered off with suction again and washed twice more with water. The crude product is dried and then extracted by stirring once in a mixture of 13.8 parts by volume of water and 41.8 parts by volume of ethanol for 10 minutes, filtered off with suction and rinsed with ethanol/water (3/1). After drying, 8.8 parts by weight of a pure product are obtained.

reactant | acetylthiourea | C(C)(=O)NC(=S)N | C3H6N2OS
reactant | water | O | H2O
reactant | ethyl 2-ethylidene-4-chloro-3-oxobutyrate | C(C)=C(C(=O)OCC)C(CCl)=O | C8H11ClO3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl Z-2-(2-acetamidothiazol-4-yl)-2-butenoate | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OCC)=C/C | C11H14N2O3S
